US05958944
A 25% hydrogen bromide-acetic acid solution (7 ml) was added to (R)-N-(4-pyridyl)-4-(1-benzyloxycarbonylaminoethyl)-3-chlorobenzamide (630 mg), and the mixture was stirred at room temperature for 6 hours. After the reaction, the solvent was evaporated under reduced pressure. The obtained crystals were washed with ether, and recrystallized from methanol to give 243 mg of (R)-(+)-N-(4-pyridyl)-4-(1-aminoethyl)-3-chlorobenzamide dihydrobromide having a melting point of more than 300° C.

reactant | hydrogen bromide acetic acid | 7 ml | Br.C(C)(=O)O
reactant | (R)-N-(4-pyridyl)-4-(1-benzyloxycarbonylaminoethyl)-3-chlorobenzamide | 630 mg | N1=CC=C(C=C1)NC(C1=CC(=C(C=C1)[C@@H](C)NC(=O)OCC1=CC=CC=C1)Cl)=O | C22H20ClN3O3
product | (R)-(+)-N-(4-pyridyl)-4-(1-aminoethyl)-3-chlorobenzamide dihydrobromide | 243 mg | Br.Br.N1=CC=C(C=C1)NC(C1=CC(=C(C=C1)[C@@H](C)N)Cl)=O | InChI=1S/C14H14ClN3O.2BrH/c1-9(16)12-3-2-10(8-13(12)15)14(19)18-11-4-6-17-7-5-11;;/h2-9H,16H2,1H3,(H,17,18,19);2*1H/t9-;;/m1../s1
